US08937071B2
A mixture of 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)acetamide (60 mg, 0.089 mmol), Pd/C (9.46 mg, 0.089 mmol) in MeOH (10 mL) was stirred for 16 h under a H2 atmosphere at 25° C. Then the mixture was filtered and the filtrate was concentrated to give the residue which was purified by preparative HPLC to yield 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenyl)acetamide (17.76 mg, 0.034 mmol, 38.8% yield): 1H NMR (400 MHz, CD3OD) δ 7.83 (d, J=2.4 Hz., 1H), 7.73-7.70 (m, 1H), 7.35-7.29 (m, 2H), 7.42 (s, 1H), 7.37 (d, J=8.0 Hz, 1H), 7.23-7.21 (m, 2H), 7.17-7.14 (d, J=4.6 Hz, 1H), 6.03 (s, 1H), 4.13-4.11 (m, 4H), 3.87 (t, J=5.0 Hz, 2H), 3.76 (s, 2H), 1.37 (t, J=7.0 Hz, 3H); ES-LCMS m/z 495 (M+H).

reactant | 2-(4-(6-(benzyloxy)-4-ethoxypyridin-3-yl)-2-fluorophenyl)-N-(4-(2-(benzyloxy)ethoxy)-3-(trifluoromethyl)phenyl)acetamide | 0.089 mmol, 60 mg | C(C1=CC=CC=C1)OC1=CC(=C(C=N1)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)OCCOCC1=CC=CC=C1)C(F)(F)F)F)OCC | C38H34F4N2O5
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.089 mmol, 9.46 mg | [Pd] | Pd
product | 2-(4-(4-ethoxy-6-oxo-1,6-dihydropyridin-3-yl)-2-fluorophenyl)-N-(4-(2-hydroxyethoxy)-3-(trifluoromethyl)phenyl)acetamide | 0.034 mmol, 17.76 mg, 38.8% yield | C(C)OC=1C(=CNC(C1)=O)C1=CC(=C(C=C1)CC(=O)NC1=CC(=C(C=C1)OCCO)C(F)(F)F)F | C24H22F4N2O5
